US08211904B2
Step 4: 1-(chloromethyl)-3-(cyclopropylmethyl)benzene
To a solution of [3-(cyclopropylmethyl)phenyl]methanol (1.67 g, 10.3 mmol) in carbon tetrachloride (100 mL) was added polystyrene bound triphenyl phosphine (2.15 mmol/g, 9.57 g, 20.6 mmol). After stirring at 100° C. overnight the resin was filtered of and the solvent was removed under vacuum to afford the desired product.

reactant | [3-(cyclopropylmethyl)phenyl]methanol | 10.3 mmol, 1.67 g | C1(CC1)CC=1C=C(C=CC1)CO | C11H14O
reactant | triphenyl phosphine | 20.6 mmol, 9.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(chloromethyl)-3-(cyclopropylmethyl)benzene | ClCC1=CC(=CC=C1)CC1CC1 | C11H13Cl
